US07723368B2
Preparation of 2-amino-4-(3-cyclopropylphenyl)-4-(4-(difluoromethoxy)phenyl)-1-methyl-1H-imidazol-5(4H)-one
To a microwave vessel containing 2-amino-4-(3-bromophenyl)-4-(4-(difluoromethoxy)phenyl)-1-methyl-1H-imidazol-5(4H)-one (103 mg, 0.25 mmol) and cyclopropylboronic acid pinacol ester (84 mg, 0.5 mmol) in 4 ml of 1:1:3 ratio of EtOH:water:1,2-dimethoxyethane, palladium(0) teterakis and aqueous sodium carbonate (400 μL of 2N solution) were added. The reaction mixture was heated in CEM microwave at 165° C. (40 mW power) for 8 minutes. The reaction mixture was filtered, and partitioned between DCM and water. The water layer was extracted w/DCM and the combined organic layer was dried (MgSO4) and concentrated under reduced pressure to afford crude product which was purified by reverse chromatography ((M+H)+ 372.4).

reactant | 2-amino-4-(3-bromophenyl)-4-(4-(difluoromethoxy)phenyl)-1-methyl-1H-imidazol-5(4H)-one | 0.25 mmol, 103 mg | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)Br)=O)C | C17H14BrF2N3O2
reactant | cyclopropylboronic acid pinacol ester | 0.5 mmol, 84 mg | C1(CC1)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | EtOH | CCO | C2H6O
reactant | sodium carbonate | 2N, 400 μL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(0) | [Pd] | Pd
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | O | H2O
product | 2-amino-4-(3-cyclopropylphenyl)-4-(4-(difluoromethoxy)phenyl)-1-methyl-1H-imidazol-5(4H)-one | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)C1CC1)=O)C | C20H19F2N3O2
